US09226922B2
6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbonyl chloride (240 mg, 0.491 mmol) was taken up in acetonitrile (4 ml). TEA (0.205 ml, 1.474 mmol) was added followed by the dropwise addition of hydrazine (0.046 ml, 1.474 mmol). The reaction was allowed to stir at rt overnight. The reaction mixture was concentrated in vacuo. The mixture was then resuspended in EtOAc and saturated NH4Cl was added. The products were extracted into EtOAc (3×) and the combined organics were washed with brine, dried over MgSO4, and concentrated in vacuo to give 6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbohydrazide. The products were carried forward without further purification. MS: [M+H]+ m/z 484.

reactant | 6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbonyl chloride | 0.491 mmol, 240 mg | ClC1=CC2=C(C(=N1)C(=O)Cl)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C27H19Cl2N3O2
reactant | hydrazine | 1.474 mmol, 0.046 ml | NN | H4N2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbohydrazide | ClC1=CC2=C(C(=N1)C(=O)NN)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C27H22ClN5O2
